US07781478B2
To a solution of 3-cyano-6-methoxyindole-1,2-dicarboxylic acid 1-tert-butyl ester (474 mg, 1.5 mmol) prepared above, and HOBt (200 mg, 1.5 mmol) in DCE/DMF (10 mL/1 mL), is added DCC (310 mg, 1.5 mmol), followed by 3-(N-hydroxycarbamimidoyl)benzoic acid methyl ester (291 mg, 1.5 mmol). The mixture is stirred at room temperature for 2 h and filtered. The filtrate is collected and the solvent is replaced with chlorobenzene, followed by the heating at 150° C. for 48 h. After cooling to room temperature, the solvent is removed in vacuo and the residue is chromatographed (silica gel, CH2Cl2/EtOAc, 8/2) to furnish the intermediate, 3-cyano-6-methoxy-2-[3-(3-methoxycarbonylphenyl)-[1,2,4]oxadiazol-5-yl]-indole-1-carboxylic acid tert-butyl ester, which is treated with 50% TFA in DCM (10.0 mL) at room temperature for 1 h. After removal of the volatiles in vacuo, the residue is suspended in water and neutralized with K2CO3 to provide the desired product, methyl 3-[5-(3-cyano-6-methoxy-1H-indol-2-yl-)[1,2,4]oxadiazol-3-yl]benzoate, compound 226 (350 mg, 62%).

reactant | 3-cyano-6-methoxyindole-1,2-dicarboxylic acid 1-tert-butyl ester | 1.5 mmol, 474 mg | C(C)(C)(C)OC(=O)N1C(=C(C2=CC=C(C=C12)OC)C#N)C(=O)O | C16H16N2O5
reactant | HOBt | 1.5 mmol, 200 mg | C=1C=CC2=C(C1)N=NN2O | C6H5N3O
reactant | DCC | 1.5 mmol, 310 mg | C1CCC(CC1)N=C=NC2CCCCC2 | C13H22N2
reactant | 3-(N-hydroxycarbamimidoyl)benzoic acid methyl ester | 1.5 mmol, 291 mg | COC(C1=CC(=CC=C1)C(NO)=N)=O | C9H10N2O3
solvent | DCE DMF | 10 mL | ClCCCl.CN(C)C=O
product | 3-cyano-6-methoxy-2-[3-(3-methoxycarbonylphenyl)-[1,2,4]oxadiazol-5-yl]-indole-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C(=C(C2=CC=C(C=C12)OC)C#N)C1=NC(=NO1)C1=CC(=CC=C1)C(=O)OC | C25H22N4O6
